US04703052
5-Hydroxymethyl-2-methoxymethyl-2,3-dihydrobenzofuran
To an anhydrous solution of 2.66 g (11.26 mmole) ethyl 2-methoxymethyl-2,3-dihydrobenzofuran-5-carboxylate in 15 ml tetrahydrofuran was added, in portions with stirring under nitrogen, 426 mg (11.26 mmole) lithium aluminum hydride and the mixture was stirred at room temperature for 2.4 hours. The reaction was quenched by cautious, dropwise addition of water, then acidified with 1N hydrochloric acid. The volatiles were evaporated and the residue taken up in water and extracted with ethyl ether, washing the extracts with brine. After drying over anhydrous magnesium sulfate and evaporation of solvent 1.674 g of oil was obtained. This crude product was dissolved in a small amount of methylene chloride and purified by column chromatography on silica gel to afford 1.40 g of product which was used as starting material in the procedure of Example 5.

reactant | ethyl 2-methoxymethyl-2,3-dihydrobenzofuran-5-carboxylate | 11.26 mmole, 2.66 g | COCC1OC2=C(C1)C=C(C=C2)C(=O)OCC | C13H16O4
reactant | lithium aluminum hydride | 11.26 mmole, 426 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Hydroxymethyl-2-methoxymethyl-2,3-dihydrobenzofuran | 1.40 g | OCC=1C=CC2=C(CC(O2)COC)C1 | C11H14O3
